US07935709B2
Step A: N-(4-Methoxybenzyl)(5-bromo-2-nitrophenyl)methanamine
To a stirring mixture of 5-bromo-2-nitrobenzaldehyde (0.46 g, 2.0 mmole (prepared according to a reference: Organic Letters (2003), 5(13), 2251-2253) in DCM (4.0 mL) was added p-methoxybenzyl amine (0.32 mL, 2.4 mmol) and three drops of AcOH. The mixture was stirred at RT for 5 min, after which was added NaB(OAc)3H (0.64 g, 3 mmol) and the entire mixture was stirred for additional 2 hrs. The reaction mixture was quenched with NaHCO3 (aq) and diluted with EtOAc (10 mL). The separated aqueous layer was extracted with EtOAc (2×15 mL) and the combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give a crude residue, which was purified using flash column chromatography (100% hexane to 30% EtOAc/hexanes gradient) to obtain the desired product N-(4-methoxybenzyl)(5-bromo-2-nitrophenyl)methanamine as a pale yellow oil. MS m/e 351 (M+H)+.

reactant | 5-bromo-2-nitrobenzaldehyde | BrC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4BrNO3
reactant | p-methoxybenzyl amine | 2.4 mmol, 0.32 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | NaB(OAc)3H | 3 mmol, 0.64 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
catalyst | AcOH | three drops | CC(=O)O | C2H4O2
product | N-(4-methoxybenzyl)(5-bromo-2-nitrophenyl)methanamine | COC1=CC=C(CNCC2=C(C=CC(=C2)Br)[N+](=O)[O-])C=C1 | C15H15BrN2O3
